US04360479
Process as claimed in claim 1 wherein benzoic anhydride is reacted with acetone cyanohydrin to produce benzoyl cyanide.

reactant | benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
product | benzoyl cyanide | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
